Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / NSAIDS (Non-Steroidal Anti-Inflammatory Drug) / 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ yo male with a history of CLL and more recently testicular
cancer who is admitted with fevers, cough, and sore throat. The
patient states his symptoms started about two days ago but the
fever just started today and has been as high as 100.6. He 
denies
any associated shortness of breath. He has had some intermittent
nausea. He denies any diarrhea, dysuria, or rashes. Of note he
has had some mild dyspnea on exertion and palpitations that was
thought by his outpatient team to be possibly symptomatic anemia
and he was going to have an outpatient red blood cell 
transfusion
but it had not been done yet.
In the ED a chest x-ray and urinalysis were unremarkable. His
labwork was notable for WBC 37.7, Hgb 7.8, and platelets 92. A
rapid flu test was negative. He was given cefepime. 
Of note he was recently hospitalized from ___ - ___ with
weakness, ___, and falls which was thought to be due to poor PO
intake after his recent chemotherapy.

REVIEW OF SYSTEMS:
- All reviewed and negative except as noted in the HPI.
 
Past Medical History:
PAST ONCOLOGIC HISTORY (per OMR):
CLL (17p-) and Stage IIIA Mixed germ cell tumor of the testis
-___: Lymphocytosis incidentally found during a psychiatric
hospitalization.
-___: CT scan showed a slightly enlarged spleen at 14.5 cm 
and
no adenopathy.
-___: He met with Dr. ___ in ___ at
___. ___ was 15.0 with 49.6% lymphocytes, Hgb 11.9,
and platelets 260,000. Flow cytometry was consistent with CLL,
and B-cell gene rearrangement confirmed clonality. CLL FISH 
panel
showed a p53 mutation. He was asymptomatic at the time of
diagnosis and followed with Dr. ___. 
-WBC gradually uptrended to 22.7 in ___, 37.3 in ___, 
51.3
in ___, and 50.4 on ___. Hgb has decreased slightly to
10.9 and Hct 34.4 with platelets 234,000 on the ___ labs. 
-___: Hematology care transitioned to Dr. ___
after Dr. ___. He also started having nightly sweats. 

-___: CT Chest without lymphadenopathy or other notable
findings.
-___: Initial ___ Hematology evaluation for second
opinion. WBC 50.7, Hgb 10.5, Hct 33.2, Plt 226. Peripheral blood
flow cytometry and cytogenetics confirmed CLL with TP53 
deletion.
-___: CT Abdomen/Pelvis without lymphadenopathy or other
notable findings.
-___: Started ibrutinib 420 mg daily.
-___: Ibrutinib held for vitreous bleed
-___: Ibrutinib restarted
-___: Per OSH records, underwent scrotal U/S showing
heterogeneous left testicle, prominent rete testis on right.
-___: Presented to his outpatient hematologist, Dr. 
___ a painful swollen left testicle (swelling over ~8 months,
worsening pain).  This had been evaluated on ___ with an
ultrasound that did not demonstrate torsion but did show
heterogeneous morphology of the left testicle.  HCG was 
positive.
Referred to Dr. ___.
-___: ibrutinib held for surgery
-___: Underwent left radical orchiectomy.  Pathology
revealed 3.9 cm malignant mixed germ cell tumor of the testis,
95% embryonal carcinoma, 2% teratoma, 2% yolk sac tumor, 1%
choriocarcinoma, invading hilar statin ___ vaginalis, with
lymphatic vascular invasion and metastatic tumor nodules in the
spermatic cord.  pT2NxS1 (although no post-orch levels, beta hCG
64 on ___, up from 21 on ___ AFP 3, LDH normal).
-___: CT torso showing new 8 mm nodule in the left lower
lobe, and comparison with CT ___.
Left para-aortic lymphadenopathy up to 2.8 cm and a 3.5 cm fluid
collection in the left inguinal region/scrotum, felt to be 
likely
postsurgical.
-___: C1D1 EP
-___: C2D1 EP 

PAST MEDICAL HISTORY:
-Sick sinus syndrome s/p PPM ___ Revo DDD, 
MRI-compatible,
___
-CAD s/p DES to mid-LAD in ___. Preserved LVEF in ___.
-Stroke ___
-Diabetes mellitus type II on insulin
-Hypertension
-Hyperlipidemia
-Morbid obesitys/p Gastric bypass surgery ___
-Obstructive sleep apnea - not on CPAP
-Pancreatitis ___ related to alcohol
-s/p Cholecystectomy
-Hypothyroidism
-Osteoarthritis
-s/p Bilateral shoulder surgery, chronic pain
-Major depression with psychotic features (vs schizoaffective
disorder per patient) (Dr. ___ name unknown, affiliated
with ___)
-Anxiety
-Conversion disorder
-Benign paroxysmal positional vertigo
-Glaucoma, cataract (Dr. ___ at ___)

 
Social History:
___
Family History:
No known history of malignancies.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
General:  NAD
VITAL SIGNS: T 98.2 BP 178/74 HR 63 RR 18 O2 99%RA
HEENT:  MMM, no OP lesions
CV:  RR, NL S1S2
PULM:  CTAB
ABD:  Soft, NTND, no masses or hepatosplenomegaly
LIMBS: Trace bilateral lower extremity edema.
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.

DISCHARGE PHYSICAL EXAM:
General:  Pleasant man, sitting up in chair in NAD
VITAL SIGNS: T 98.4 BP 146/76 HR 52 RR 18 O2 98%RA
HEENT:  MMM, no OP lesions, erythema, or purulence. No LAD.
CV:  RR, NL S1S2. ___ SEM.
PULM:  Nonlabored appearing. CTAB. No cough this morning.
ABD:  Obese. Soft, NTND, no masses or hepatosplenomegaly
LIMBS: ___ bilateral lower extremity edema, L>R
SKIN:  No rashes or skin breakdown
NEURO: Alert and oriented, no focal deficits.

 
Pertinent Results:
ADMISSION LABS:
==============

___ 08:20PM BLOOD WBC-37.7* RBC-2.77* Hgb-7.8* Hct-23.7* 
MCV-86 MCH-28.2 MCHC-32.9 RDW-20.5* RDWSD-61.8* Plt Ct-92*#
___ 08:20PM BLOOD Neuts-57 Bands-12* ___ Monos-3* 
Eos-2 Baso-1 ___ Metas-2* Myelos-1* NRBC-2* AbsNeut-26.01* 
AbsLymp-8.29* AbsMono-1.13* AbsEos-0.75* AbsBaso-0.38*
___ 08:20PM BLOOD ___ PTT-30.6 ___
___ 08:20PM BLOOD Glucose-213* UreaN-8 Creat-0.9 Na-140 
K-3.5 Cl-104 HCO3-25 AnGap-15
___ 02:48AM BLOOD ALT-15 AST-22 AlkPhos-122 TotBili-0.2
___ 02:48AM BLOOD Calcium-8.5 Phos-3.8 Mg-1.4*
___ 02:48AM BLOOD IgG-544* IgA-101 IgM-28*

DISCHARGE LABS:
===============

___ 12:00AM BLOOD WBC-26.6* RBC-2.98* Hgb-8.3* Hct-25.4* 
MCV-85 MCH-27.9 MCHC-32.7 RDW-19.9* RDWSD-58.8* Plt ___
___ 12:00AM BLOOD Neuts-73* Bands-7* Lymphs-13* Monos-2* 
Eos-1 Baso-2* ___ Metas-1* Myelos-1* AbsNeut-21.28* 
AbsLymp-3.46 AbsMono-0.53 AbsEos-0.27 AbsBaso-0.53*
___ 12:00AM BLOOD Glucose-114* UreaN-8 Creat-0.8 Na-128* 
K-4.4 Cl-92* HCO3-24 AnGap-16
___ 12:00AM BLOOD Albumin-3.2* Calcium-8.0* Phos-3.6 Mg-1.8

TROP TREND:
===========

___ 09:19AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:00PM BLOOD CK-MB-2 cTropnT-<0.01

NA
==
___ 12:00AM BLOOD Glucose-114* UreaN-8 Creat-0.8 Na-128* 
K-4.4 Cl-92* HCO3-24 AnGap-16
___ 12:00AM BLOOD Osmolal-272*
___ 05:11AM URINE Hours-RANDOM Na-34
___ 05:11AM URINE Osmolal-154
___ 11:00AM BLOOD Na-131*

IMAGING:
========
___ Imaging UNILAT LOWER EXT VEINS 
No evidence of deep venous thrombosis in the visualized right 
lower extremity veins.  Right peroneal veins not visualized. 

___ Imaging CTA CHEST  
1. New opacities in the right lower lobe are concerning for 
infection versus aspiration. 
2. No evidence of pulmonary embolism or aortic abnormality. 
3. There has been interval resolution of the previously seen 8 
mm nodule in the left lower lobe from ___. 

___ Imaging CHEST (PA & LAT) 
Persistent low lung volumes, without focal consolidation.  
Stable mild 
cardiomegaly without overt pulmonary edema. 

MICRO:
======
___  URINE Legionella Urinary Antigen -FINAL INPATIENT 
___  Rapid Respiratory Viral Screen & Culture Respiratory 
Viral Culture-FINAL {PARAINFLUENZA VIRUS TYPE 3}; Respiratory 
Viral Antigen Screen-FINAL INPATIENT 
___  URINE URINE CULTURE-FINAL EMERGENCY WARD 
___  BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___  BLOOD CULTURE Blood Culture, Routine-PENDING 

 
Brief Hospital Course:
PRINCIPLE REASON FOR ADMISSION:
___ yo male with a history of CLL and more recently testicular 
cancer who is admitted with fevers, cough, and sore throat. 
Course notable for nausea, vomiting, and intermittent 
palpitations.

# Fever: 
# Parainfluenza bronchitis/pharyngitis: Patient febrile to 
arrival, but no fever noted in the hospital. Blood and urine 
cultures remain negative. Most prominent symptoms were sore 
throat, dry cough, and nausea/vomiting. He was treated 
symptomatically and slowly improved during his course. 
Nasopharyngeal swab obtained on admission eventually grew 
parainfluenza type 3. Of note, CTA showed
mild area of possible infection in RLL, and he was empirically 
started
on clindamycin for aspiration PNA (has PCN allergy). However, 
this was discontinued
after one day given concern it was worsening his nausea. 
Additionally, noted to have low IgG/IgM, we discussed with his 
outpatient oncology team and decided against IVIG.

# Nausea/vomiting - Patient developed marked nauasea and 
vomiting on hospital days 2 and 3. Abdomen was benign on exam 
and LFT/chemistry panel generally unremarkable. He did have 
elevated white count but no diarreha to suggest CDiff. Somewhat 
unclear etiology, but ultimately felt related to parainfluenzae. 
Greatly improved after reducing dietary allowance, and slowly 
advanced back to full diet. He was treated supportively 
treatment with IV zofran, compazine, ativan and olanzapine as 
needed

# Palpitations
# Dyspnea on exertion: Patient reported several weeks of DOE and 
palpitations with exertion. He continued to have these during 
his stay, although no VS derangements were noted during 
episodes. Had been thought that symptomatic anemia was playing a 
role, but no significant improvement with 2 units pRBC. He was 
monitored on telemetry, and ACS ruled out with serial troponins. 
CTA was negative for PE. Cardiology was consulted interrogate 
PPM, and no significant arrhythmias were noted. 

# Left lower extremity swelling - Likely worsened in setting of 
holding home Lasix and providing IVF for nausea/vomiting. ___ 
was negative for DVT.

# Hyponatremia: Na was noted to be 128 on day of discharge. Felt 
likely due to nausea and vomiting and decreased po intake day 
prior. Urine was appropriately dilute, and was given 500cc 
additional fluid. Na improved to 131 prior to discharge.

# Anemia, chemotherapy induced: No signs of active bleeding. SP 
2 units pRBC.

# Leukocytosis: Most likely due to recent neulasta and less
likely from CLL given profound left shift. No clear bacterial
infection, as above, and antibiotics were held, aside from one 
day of clindamycin. 

# Testicular Cancer: Received C2D1 etoposide and cisplatin on 
___. Received
neulasta on ___. Next cycle planned for ___, ultimately 
deferred to next week. 

# CLL: Treatment on hold while the patient is being treated for
testicular cancer. Continued home acyclovir.

# DM: Continued home lantus. Held home metformin while in house 
and maintained HISS.

# CAD: Continued home aspirin, atorvastatin, clonidine, Plavix, 
Lasix,
and losartan.

# Depression/Anxiety: Continued home trazadone, ziprasidone, 
fluoxetine, and
divalproex.

# Hypothyroidism: Continued home levothyroxine.

# Atrial Fibrillation: Continue home metoprolol and rivaroxaban.

FEN: 
- Electrolytes per oncology scales
- Regular diet
PAIN:
- Continue home gabapentin. Oxycodone PRN. Avoid Tylenol acutely
to avoid masking fevers.
BOWEL REGIMEN:
- Continue home Colace and senna.
DVT PROPHYLAXIS:
- Continue home rivaroxaban.
ACCESS: 
- Port

BILLING: >30 minutes spend planning and executing this discharge 
plan.

TRANSITIONAL ISSUES:
- Please follow up in clinic on ___ to consider next cycle chemo
- Please recheck Na to monitor hyponatremia

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Headache 
2. Atorvastatin 80 mg PO QPM 
3. Clopidogrel 75 mg PO DAILY 
4. Divalproex (EXTended Release) 500 mg PO BID 
5. Divalproex (EXTended Release) 250 mg PO QPM 
6. Docusate Sodium 100 mg PO BID constipation 
7. FLUoxetine 20 mg PO DAILY 
8. Gabapentin 300 mg PO TID 
9. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain - 
Moderate 
10. Levothyroxine Sodium 25 mcg PO DAILY 
11. Magnesium Oxide 400 mg PO BID 
12. Metoprolol Tartrate 12.5 mg PO BID 
13. Pantoprazole 40 mg PO Q24H 
14. Rivaroxaban 10 mg PO DAILY 
15. Senna 8.6 mg PO DAILY constipation 
16. TraZODone 300 mg PO QHS 
17. Prochlorperazine 10 mg PO Q6H:PRN nausea 
18. Sucralfate 1 gm PO TID:PRN upset stomach with meals 
19. Furosemide 20 mg PO DAILY 
20. Losartan Potassium 50 mg PO DAILY 
21. melatonin 2.5 mg oral QHS:PRN 
22. MetFORMIN (Glucophage) 1000 mg PO BID 
23. Aspirin 243 mg PO DAILY 
24. Glargine 56 Units Breakfast
Glargine 56 Units Bedtime
25. Acyclovir 400 mg PO Q8H 
26. CloNIDine 0.1 mg PO TID 
27. Fenofibrate 150 mg PO DAILY 
28. ZIPRASidone Hydrochloride 40 mg PO BID 

 
Discharge Medications:
1.  Cepacol (Sore Throat Lozenge) 2 LOZ PO Q2H:PRN sore throat 
RX *benzocaine-menthol [Cepacol Sore Throat ___ 15 
mg-2.6 mg 2 lozenge q4 hours Disp #*30 Lozenge Refills:*0 
2.  Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
RX *dextromethorphan-guaifenesin 100 mg-10 mg/5 mL 5 mL by mouth 
q4 hours Refills:*0 
3.  Acetaminophen 500 mg PO Q8H:PRN Headache  
4.  Acyclovir 400 mg PO Q8H  
5.  Aspirin 243 mg PO DAILY  
6.  Atorvastatin 80 mg PO QPM  
7.  CloNIDine 0.1 mg PO TID  
8.  Clopidogrel 75 mg PO DAILY  
9.  Divalproex (EXTended Release) 500 mg PO BID  
10.  Divalproex (EXTended Release) 250 mg PO QPM  
11.  Docusate Sodium 100 mg PO BID constipation  
12.  Fenofibrate 150 mg PO DAILY  
13.  FLUoxetine 20 mg PO DAILY  
14.  Furosemide 20 mg PO DAILY  
15.  Gabapentin 300 mg PO TID  
16.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q8H:PRN Pain 
- Moderate  
17.  Glargine 56 Units Breakfast
Glargine 56 Units Bedtime 
18.  Levothyroxine Sodium 25 mcg PO DAILY  
19.  Losartan Potassium 50 mg PO DAILY  
20.  Magnesium Oxide 400 mg PO BID  
21.  melatonin 2.5 mg oral QHS:PRN  
22.  MetFORMIN (Glucophage) 1000 mg PO BID  
23.  Metoprolol Tartrate 12.5 mg PO BID  
24.  Pantoprazole 40 mg PO Q24H  
25.  Prochlorperazine 10 mg PO Q6H:PRN nausea  
26.  Rivaroxaban 10 mg PO DAILY  
27.  Senna 8.6 mg PO DAILY constipation  
28.  Sucralfate 1 gm PO TID:PRN upset stomach with meals  
29.  TraZODone 300 mg PO QHS  
30.  ZIPRASidone Hydrochloride 40 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Parainfluenzae virus 3
Nausea/Vomiting
Palpitations

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___

___ were admitted for fevers. ___ were found to have a viral 
infection, called parainfluenza 3 virus. Your symptoms, 
including fever, cough, sore throat, nausea, and vomiting 
improved with time. ___ also had a blood transfusion to help 
improve your breathing and energy. ___ tolerated it well. We had 
our cardiologists evaluate your pacemaker given your 
palpitations, and we found no evidence of concerning heart 
rhythms. ___ will need to follow up with your oncology team as 
scheduled.

Regards,
Your ___ team
 
Followup Instructions:
___